US08247424B2
(8S)-4′,9,9′-trihydroxy-6′-benzylamino-3-[(1E,3E)-penta-1,3-dienyl]-6,7-dihydrospiro[cyclopenta[g]isoquinoline-8,2′-cyclopenta[b]-naphthalene]-1,1′,3′,5′,8′(2H)-pentone
Twenty (20) mg (37.1 μmol) fredericamycin are dissolved in 1 ml DMF under argon, then 4.76 mg (44.50 μmol) benzylamine are added at room temperature. According to HPLC (RP18, acetonitrile/water), a homogenous new product has formed after 3 h. The reaction mixture is concentrated at high vacuum until dry.

reactant | fredericamycin | 37.1 μmol | C/C=C/C=C/C1=CC2=CC3=C(C(=C2C(=O)N1)O)C4(CC3)C(=O)C5=C(C6=C(C(=C5C4=O)O)C(=O)C(=CC6=O)OC)O | C30H21NO9
reactant | benzylamine | 44.50 μmol, 4.76 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | acetonitrile water | C(C)#N.O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (8S)-4′,9,9′-trihydroxy-6′-benzylamino-3-[(1E,3E)-penta-1,3-dienyl]-6,7-dihydrospiro[cyclopenta[g]isoquinoline-8,2′-cyclopenta[b]-naphthalene]-1,1′,3′,5′,8′(2H)-pentone | OC1=C2C(=C(C=3C(C=C(C(C13)=O)NCC1=CC=CC=C1)=O)O)C([C@]1(C2=O)CCC=2C=C3C=C(NC(C3=C(C21)O)=O)\C=C\C=C\C)=O | C36H26N2O8
